US08202868B2
b.1.2: 4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine
2.4 g of 2-{4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-isoindole-1,3-dione (5.05 mmol) and 1.0 g of hydrazine hydrate (20.2 mmol) were dissolved in 20 ml of ethanol and heated to reflux for 1 h. The precipitate was filtered and the filtrate extracted with water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated to dryness to yield 1.2 g of the title compound.

reactant | 2-{4-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butyl}-isoindole-1,3-dione | 5.05 mmol, 2.4 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O)C1CCC1 | C28H37N5O2
reactant | hydrazine hydrate | 20.2 mmol, 1.0 g | O.NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-butylamine | 1.2 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCN)C1CCC1 | C20H35N5
